US06995263B2
d] {6-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2,3-dihydro-indol-1-yl}-acetic acid ethyl ester
To a 10° C. cold solution of {6-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester (17 mg, 0.036 μmol) in acetic acid (0.5 ml) was added sodium cyanoborohydride (14 mg, 0.22 μmol). The reaction mixture was naturally warmed to ambient temperature, stirred for 4 h and poured onto ice water/brine/AcOEt 1/1/2. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with sat. sodium bicarbonate solution/brine 1/1 and brine/ice water 1/1 and dried over sodium sulfate. The solvent was removed under reduced pressure to give 17 mg (0.036 μmol, quant.) of the title compound as colorless crystals.

reactant | {6-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | 0.036 μmol, 17 mg | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H23F3N2O3
reactant | sodium cyanoborohydride | 0.22 μmol, 14 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | {6-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-2,3-dihydro-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1CCC2=CC=C(C=C12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H25F3N2O3
